Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Scheduled chemotherapy
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ yo female with a history of synovial sarcoma who is admitted
for week 4 scheduled radiation and chemotherapy with 
doxorubicin.

She states she is doing well since prior admission for chemo,
,and has adjusted her home oxycontin to feel more alert, taking
20mg in the AM, 20mg in the afternoon and 20mg in the evenings. 

She denies any fevers, shortness of breath,
constipation, or dysuria. Of note she was recently admitted from
for doxorubicin with concurrent radiation.
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Left Shoulder Synovial Sarcoma
- ___ Increase right shoulder pain and swelling
- ___ Ultrasound showed a large ill-defined masslike
structure in the left shoulder/upper arm without evidence of 
deep
vein thrombosis.
- ___ MRI showed a heterogeneously enhancing soft tissue mass
measuring 11.9 x 10.7 x 9.8 cm seen circumferentially around the
left humeral head, neck, and proximal shaft. There was extension
of mass into the axilla and multiple surrounding muscles. There
was associated abnormal marrow signal in the proximal humerus.
- ___ Ultrasound guided core needle biopsy
- ___ Bone Scan trace uptake in the left humeral head 
without
other abnormality.
- ___ CT Chest on the same date showed several non-specific
lung nodules all measuring less than ___s increased
number and size of left axillary lymph nodes.
- Screening mammogram that showed a 3 mm left
breast lesion.
- ___ Week 1 Doxorubicin and Radiation
- ___ Week 2 Doxorubicin and Radiation
PAST MEDICAL HISTORY:
-Hyperlipidemia.
-Arthritis.
-Left humerus fracture ___.
-s/p Left total hip replacement ___ ___.
-s/p Right ACL repair ___.
-s/p C-sections x2 in ___ and ___.
 
Social History:
___
Family History:
Mother - Lung cancer (smoker), stroke, hypertension, depression,
alcohol abuse.
Father - Lung cancer (smoker), hypertension, gout.
 
Physical Exam:
General:  NAD
VITAL SIGNS: VSS
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  LUE edema and tenderness to palpation with decreased
range of motion due to pain. No ___ edema.
SKIN:  No rashes or skin breakdown. R chest port healing well
with no erythema or drainage.
NEURO: Alert and oriented, no focal deficits.
 
Pertinent Results:
___ 04:34AM BLOOD WBC-4.6 RBC-3.14* Hgb-9.5* Hct-29.6* 
MCV-94 MCH-30.3 MCHC-32.1 RDW-15.5 RDWSD-51.7* Plt ___
___ 04:34AM BLOOD Glucose-77 UreaN-7 Creat-0.5 Na-139 K-3.6 
Cl-102 HCO3-25 AnGap-___ yo female with a history of synovial sarcoma who is admitted
for week 3 scheduled radiation and chemotherapy with 
doxorubicin.

Synovial Sarcoma
- Scheduled chemotherapy with doxorubicin with concurrent
radiation with no complications 

PAIN:
- Continued home oxycodone, increase dose of home oxycontin due 
to
increased usage. Continue home lidocaine patch and capsaicin.

BOWEL REGIMEN:
- Continued home miralax, senna, and Colace.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE SR (OxyconTIN) 30 mg PO Q8H 
2. Acetaminophen ___ mg PO Q8H:PRN pain, headache 
3. Capsaicin 0.025% 1 Appl TP QID:PRN elbow pain 
4. Docusate Sodium 200 mg PO BID 
5. Lidocaine 5% Patch 2 PTCH TD DAILY:PRN elbow or arm pain 
6. LORazepam 0.5 mg PO Q8H:PRN nausea, vomiting 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Prochlorperazine 10 mg PO Q6H:PRN nausea 
11. Senna 17.2 mg PO BID 
12. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN Sore Throat 
13. Nystatin Oral Suspension 5 mL PO QID:PRN mouth pain 

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q8H:PRN pain, headache 
2. Capsaicin 0.025% 1 Appl TP QID:PRN elbow pain 
3. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN Sore Throat 
4. Docusate Sodium 200 mg PO BID 
5. Lidocaine 5% Patch 2 PTCH TD DAILY:PRN elbow or arm pain 
6. LORazepam 0.5 mg PO Q8H:PRN nausea, vomiting 
7. Nystatin Oral Suspension 5 mL PO QID:PRN mouth pain 
8. Ondansetron 8 mg PO Q8H:PRN nausea 
9. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
10. OxyCODONE SR (OxyconTIN) 30 mg PO QHS 
11. OxyCODONE SR (OxyconTIN) 20 mg PO QAM 
12. OxyCODONE SR (OxyconTIN) 20 mg PO LUNCH 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Prochlorperazine 10 mg PO Q6H:PRN nausea 
15. Senna 17.2 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Synovial Sarcoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please follow up with your primary oncologist 
 
Followup Instructions:
___